US09332754B2
Production of 5-bromopentyl-[4-chloro-2-fluoro-5-(2,2,2-trifluoroethylthio)phenyl]ether (present compound No. A-0273)
To 60 ml of acetonitrile were added 3.0 g (11.5 mmol) of 4-chloro-2-fluoro-5-(2,2,2-trifluoroethylthio)phenol, 13.2 g (57.4 mmol) of 1,5-dibromopentane, 2.1 g (15.0 mmol) of potassium carbonate and 0.37 g (1.15 mmol) of tetra-n-butylammonium bromide. The mixture was refluxed for 1.5 hour under heating. The mixture was allowed to cool to room temperature, and insoluble matters were removed by filtration. Then the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent: a mixed solvent of n-hexane ethyl acetate=20:1), to obtain 4.2 g (yield: 89%) of an intended product.

reactant | acetonitrile | 60 ml | C(C)#N | C2H3N
reactant | 4-chloro-2-fluoro-5-(2,2,2-trifluoroethylthio)phenol | 11.5 mmol, 3.0 g | ClC1=CC(=C(C=C1SCC(F)(F)F)O)F | C8H5ClF4OS
reactant | 1,5-dibromopentane | 57.4 mmol, 13.2 g | BrCCCCCBr | C5H10Br2
reactant | potassium carbonate | 15.0 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetra-n-butylammonium bromide | 1.15 mmol, 0.37 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | n-hexane ethyl acetate | C(C)OC(C)=O.CCCCCC
product | 5-bromopentyl-[4-chloro-2-fluoro-5-(2,2,2-trifluoroethylthio)phenyl]ether | 4.2 g, yield: 89% | BrCCCCCOC1=C(C=C(C(=C1)SCC(F)(F)F)Cl)F | C13H14BrClF4OS
